US06448205B1
Precursor β: 2,3-Dichloro-5-ethylsulfinylpyridine
4 g (0.02 mol) of 2,3-dichloro-5-ethylthiopyridine were reacted with 3.47 g (0.02 mol) of m-chloroperbenzoic acid in 30 ml of methylene chloride by a method similar to Example 1, Precursor β. After the crude product had been purified by means of flash chromatography on silica gel (eluent: cyclohexane/ethyl acetate=2:1), 1.9 g of product of value were obtained in the form of white crystals. Yield: 42%. m.p.: 78-79° C.; 1H-NMR (d6 dimethyl sulfoxide): δ [ppm]=1.1 (t; CH3); 3.0 and 3.2 (2×m, CH2); 8.35 and 8.6 (2×s, pyr H).

reactant | 2,3-dichloro-5-ethylthiopyridine | 0.02 mol, 4 g | ClC1=NC=C(C=C1Cl)SCC | C7H7Cl2NS
reactant | m-chloroperbenzoic acid | 0.02 mol, 3.47 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-5-ethylsulfinylpyridine | Yield: 42% | ClC1=NC=C(C=C1Cl)S(=O)CC | C7H7Cl2NOS
